US08486952B2
To a solution of sodium hydride (24.5 g, 1.02 mol) in THF was added benzyl cyanide (50.0 g, 0.426 mol) at −10° C. The reaction mixture was stirred for 15 min at the same temperature. Diethyl carbonate (60.5 g, 0.512 mol) was added to the reaction mixture and the reaction mixture was allowed to come to room temperature and heated to 40° C. (Caution: Reaction will start suddenly and exothermic). The heating path was removed immediately once the reaction was started and the reaction mixture was cooled under ice/acetone. The solution was allowed to come to room temperature and stirred for 1 h. The reaction mass was cooled to 0° C. and quenched with aqueous saturated ammonium chloride and extracted with ethyl acetate (250 mL×3). The combined organic layer was washed with water (200 mL), brine solution (200 mL), dried over anhydrous Na2SO4 and evaporated under reduced pressure to give ethyl 2-cyano-2-phenylacetate as crude compound as crude compound (71.0 g). The crude compound was taken to the next step without further purification. LC-MS (M+H)+=190.1. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.45 (5H, m), 5.65 (1H, s), 4.18 (2H, m), 1.18 (3H, t, J=7.2 Hz).

reactant | sodium hydride | 1.02 mol, 24.5 g | [H-].[Na+]
reactant | benzyl cyanide | 0.426 mol, 50.0 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | Diethyl carbonate | 0.512 mol, 60.5 g | C(OCC)(OCC)=O | C5H10O3
solvent | THF | C1CCOC1 | C4H8O
product | ethyl 2-cyano-2-phenylacetate | C(#N)C(C(=O)OCC)C1=CC=CC=C1 | C11H11NO2
